US04782165
1,3-Di(methoxycarbonyl)-4-methyl-5-(5-ethoxycarbonylpentanoyl)-4-imidazolin-2-one
A mixture of 1.88 g (7.4 mmol) of 4-methyl-5-(5-ethoxycarbonylpentanoyl)-4-imidazolin-2-one and 20 ml methyl pyrocarbonate was heated to 90° C., and stirred for 1.5 hours whereupon a complete solution was obtained. After removal of the volatiles in vacuo, the oily residue was treated with 20 ml hexanes to give a white solid which was collected by filtration and washed with two 5 ml portions of hexanes. Recrystallization from 100 ml ethyl ether gave 2.1 g (76.6%) of the title compound; m.p. 74°-76° C.; 1H-NMR (CDCl3): 1.27 (t, 3, OCH2CH3), 1.58-1.76 (m, 4, 2CH2 's), 2.33 (t, 2, CH2), 2.38 (s, 3, CH3), 2.57 (t, 2, CH2), 3.98 (s, 3, NCOOCH3), 4.01 (s, 3, NCOOCH3) and 4.14 ppm (q, 2, OCH2CH3); 13C-NMR δ (CDCl3) 11.9, 14.2, 23.1, 24.3, 34.0, 41.8, 54.8, 55.1, 60.3, 120.9, 126.5, 146.4, 149.9, 150.2, 173.2, and 192.6 ppm.

reactant | 4-methyl-5-(5-ethoxycarbonylpentanoyl)-4-imidazolin-2-one | 7.4 mmol, 1.88 g | CC=1NC(NC1C(CCCCC(=O)OCC)=O)=O | C12H18N2O4
reactant | methyl pyrocarbonate | 20 ml | C(OC)(=O)OC(=O)[O-]
product | 1,3-Di(methoxycarbonyl)-4-methyl-5-(5-ethoxycarbonylpentanoyl)-4-imidazolin-2-one | 2.1 g, 76.6% | COC(=O)N1C(N(C(=C1C(CCCCC(=O)OCC)=O)C)C(=O)OC)=O | C16H22N2O8
